US04785004
(b) 6,6,6-trifluoro-2-trans-hexenol
A solution of 10 g of 6,6,6-trifluoro-2-transhexenoic acid ethyl ester (see above) in 70 ml of diethyl ether is cooled to 0°-5° and at this temperature 102 ml of 1M diisobutylaluminium hydride solution in hexane are added. The reaction mixture is then stirred for 5 minutes at 0°-5° and carefully hydrolysed with approx. 200 ml of 6N hydrochloric acid. The organic phase is separated off and the aqueous phase is extracted a further 3 times with ether. The combined organic phases are dried over MgSO4, and concentrated by evaporation. Chromatography of the residue on silica gel with hexane/ethyl acetate (7:3) yields the title compound in the form of a colourless liquid.

reactant | 6,6,6-trifluoro-2-transhexenoic acid ethyl ester | 10 g | C(C)OC(\C=C\CCC(F)(F)F)=O | C8H11F3O2
reactant | diisobutylaluminium hydride | 1M, 102 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 6N, approx. 200 ml | Cl | ClH
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 6,6,6-trifluoro-2-trans-hexenol | FC(CCC/C=C/O)(F)F | C6H9F3O
